US04552883
a. Ethyl 3-hydroxy-4,4,4-trifluorobutyrate
A solution of 19.31 g of ethyl trifluoroacetoacetate (Fairfield Chemical) in 50 ml of ethyl acetate was hydrogenated at 3 atmospheres on a Parr shaker over (0.5 g) PtO2 as a catalyst. The volatiles were removed and the residue distilled under high vacuum to afford 14.75 g (76%) of the title compound as a low melting solid. bp=47°-49° C. at 0.1 mm of Hg, mp (uncorrected)=about 25° C.

reactant | ethyl trifluoroacetoacetate | 19.31 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 0.5 g | O=[Pt]=O
product | Ethyl 3-hydroxy-4,4,4-trifluorobutyrate | 14.75 g, 76% | OC(CC(=O)OCC)C(F)(F)F | C6H9F3O3
